US08193236B2
[6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-oxo-acetic acid ethyl ester
In a reaction tube, chloro-oxo-acetic acid ethyl ester (0.51 ml, 4.5 mmol, 7.2 equiv) is added to a solution of 6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazine (250 mg, 0.62 mmol) in anhydrous THF (5 ml) under an atmosphere of argon. The tube is sealed under argon, and the reaction mixture is heated under microwave irradiation for 30 minutes at 120° C. After cooling, the reaction mixture is carefully poured into an aqueous solution of sodium carbonate. After three extractions with EtOAc, the combined organic layers are dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (hexane/EtOAc 4:1) affords the title compound (200 mg, 64%). 1H NMR (400 MHz, d6-DMSO): δ=9.49 (d, J=1.4 Hz, 1H), 9.25 (d, J=1.4 Hz, 1H), 7.70-7.67 (m, 4H), 7.48-7.42 (m, 6H), 4.95(s, 2H), 4.47 (q, J=7.4Hz, 2H), 2.57 (s, 3H), 1.38 (t, J=7.4 Hz, 3H), 1.11 (s, 9H). MS (ES+): 502 (M+H)+.

reactant | chloro-oxo-acetic acid ethyl ester | 4.5 mmol, 0.51 ml, 7.2 equiv | C(C)OC(C(=O)Cl)=O | C4H5ClO3
reactant | 6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazine | 0.62 mmol, 250 mg | C(C)(C)(C)[SiH2]OC(C=1N=CC=2N(C1)C=C(N2)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C24H27N3OSi
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | [6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-oxo-acetic acid ethyl ester | 200 mg, 64% | C(C)OC(C(=O)C1=C(N=C2N1C=C(N=C2)C(O[SiH2]C(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C)=O | C28H31N3O4Si
